US05627198
N-[5-(Phenylcarbonyl) thien-2-yl]-3,3,3-tri-fluoro-2-hydroxy-2-methylpropanamide
Thionyl chloride (110 μl, 1.51 mmol) is added to 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid (240 mg, 1.52 mmol) in 5 ml of N,N-dimethylacetamide at -15°/-10° C., and the mixture is stirred at this temperature for one hour. Then 2-amino-5-(phenylcarbonyl) thiophene (200 mg, 0.983 mmol) is added and the reaction mixture is equilibrated to room temperature. After the reaction has ended, the reaction mixture is poured into 200 ml of water and subjected to extraction with 3×100 ml of ethyl acetate. The combined organic phases are dried over magnesium sulfate and filtered and the solvent is distilled off. The orange-colored oil which remains is purified by flash chromatography (eluent: 50% v/v ethyl acetate in petroleum ether (40/60)).

reactant | Thionyl chloride | 1.51 mmol, 110 μl | S(=O)(Cl)Cl | Cl2OS
reactant | 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid | 1.52 mmol, 240 mg | FC(C(C(=O)O)(C)O)(F)F | C4H5F3O3
reactant | 2-amino-5-(phenylcarbonyl) thiophene | 0.983 mmol, 200 mg | NC=1SC(=CC1)C(=O)C1=CC=CC=C1 | C11H9NOS
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
product | N-[5-(Phenylcarbonyl) thien-2-yl]-3,3,3-tri-fluoro-2-hydroxy-2-methylpropanamide | C1(=CC=CC=C1)C(=O)C1=CC=C(S1)NC(C(C(F)(F)F)(C)O)=O | C15H12F3NO3S
